US08629270B2
tert-Butyl 3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-(2-thienyl)pyrrolidine-1-carboxylate
Acetic acid (104 mL) is added to tert-butyl-1-(benzoylcarbamothioyl)-6a-(2-thienyl)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate followed by powdered zinc (17.1 g, 261 mmol) and the resulting suspension is vigorously stirred at 40° C. for 7 hours followed by an additional hour at 45-50° C. The reaction is concentrated under reduced pressure. To the crude reaction mixture is added diatomaceous earth and water, followed by a saturated solution of sodium bicarbonate. The mixture is filtered and washed with ethyl acetate. The filtrate is extracted with ethyl acetate. The organic layers are combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give a residue. The residue is purified by silica gel flash chromatography, eluting with hexane/ethyl acetate (1:0) to hexane/ethyl acetate (0:1) to give the title compound (3.8 g, 32%). ES/MS (m/e): 460 (M−1).

reactant | Acetic acid | 104 mL | C(C)(=O)O | C2H4O2
reactant | tert-butyl-1-(benzoylcarbamothioyl)-6a-(2-thienyl)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-5-carboxylate | C(C)(C)(C)OC(=O)N1CC2(N(OCC2C1)C(NC(C1=CC=CC=C1)=O)=S)C=1SC=CC1 | C22H25N3O4S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | zinc | 261 mmol, 17.1 g | [Zn] | Zn
solvent | water | O | H2O
product | tert-Butyl 3-(benzoylcarbamothioylamino)-4-(hydroxymethyl)-3-(2-thienyl)pyrrolidine-1-carboxylate | 3.8 g, 32% | C(C1=CC=CC=C1)(=O)NC(=S)NC1(CN(CC1CO)C(=O)OC(C)(C)C)C=1SC=CC1 | C22H27N3O4S2
